US08486979B2
5-(4-chloro-3-fluorophenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 4-chloro-3-fluorobenzoic acid (Aldrich). 1H NMR (300 MHz, CD3OD) δ 7.64 (ddd, J=7.9, 5.0, 1.0 Hz, 1 H), 7.78 (dd, J=8.3, 7.5 Hz, 1 H), 8.07 (ddd, J=8.3, 2.0, 0.8 Hz, 1 H), 8.12 (dd, J=9.5, 2.0 Hz, 1 H), 8.55 (dt, J=7.9, 2.0 Hz, 1 H), 8.74 (dd, J=5.0, 1.8 Hz, 1 H), 9.28-9.30 (m, 1 H) ppm; MS (DCI/NH3) m/z 276 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 4-chloro-3-fluorobenzoic acid | ClC1=C(C=C(C(=O)O)C=C1)F | C7H4ClFO2
reactant | NH3 | N | H3N
product | 5-(4-chloro-3-fluorophenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | ClC1=C(C=C(C=C1)C1=NC(=NO1)C=1C=NC=CC1)F | C13H7ClFN3O
